US04370494
A. N-(Indanyl)glycine Sodium Salt
Glycine (5.1 g, 0.068 mole) was dissolved in a solution of NaOH (2.72 g, 0.068 mole) and methanol (125 ml). To this was added 1-indanone (10.0 g, 0.076 mole, 10% excess) and 5% Pd/C dry (2.0 g). This mixture was subjected to hydrogen at room temperature on a Parr shaker for 24 hours. The catalyst was removed by filtration and fresh 5% Pd/C dry (2.0 g) added. Hydrogenation was resumed for 20 hours. A total of 55 psi of H2 (68 psi theory) was taken up. The catalyst was removed by filtration and the filtrate concentrated under reduced pressure to an oily residue. This residue was dissolved in H2O (100 ml) and extracted with ethyl acetate (3×25 ml). The aqueous solution was cooled on an ice bath and a white solid precipitated. This solid was collected and air dried to give 5.0 g of crude product. A second crop was obtained by concentrating the filtrate under reduced pressure to a solid residue. This residue was recrystallized from 70% isopropanol/H2O (40 ml), collected and air dried to give 4.3 g of product. The two crops were combined, triturated in 80% isopropanol/H2O (50 ml), collected, air dried and dried in vacuo at 60° to give 6.8 g (0.037 mole, 47% yield), melting point 196°-200° (dec.).

reactant | Glycine | 0.068 mole, 5.1 g | NCC(=O)O | C2H5NO2
reactant | NaOH | 0.068 mole, 2.72 g | [OH-].[Na+]
reactant | 1-indanone | 0.076 mole, 10.0 g | C1(CCC2=CC=CC=C12)=O | C9H8O
solvent | methanol | 125 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | N-(Indanyl)glycine Sodium Salt | 4.3 g, 47% yield | [Na+].C1(CCC2=CC=CC=C12)NCC(=O)[O-] | InChI=1S/C11H13NO2.Na/c13-11(14)7-12-10-6-5-8-3-1-2-4-9(8)10;/h1-4,10,12H,5-7H2,(H,13,14);/q;+1/p-1
